US07517875B2
2-{[1-(3,5-Dichloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid (30.0 mg, 0.0668 mmol) was suspended in dimethylformamide (0.50 ml). After adding 1-hydroxybenzotriazole monohydrate (30.6 mg, 0.200 mmol), isopropylamine (11.8 mg, 0.200 mmol) and diisopropylcarbodiimide (30.8 μl, 0.200 mmol) thereto, the mixture was stirred at 40° C. overnight. Methanol (2 ml) was added to the reaction mixture, and after stirring for 10 minutes, the reaction mixture was passed through SCX (Bond Elute SCX500MG) and the SCX was washed with methanol. After elution with a 2N ammonia-methanol solution, the solvent was distilled off under reduced pressure to obtain a residue. The residue was purified by preparative HPLC to obtain 2-{[1-(3,5-dichloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid isopropylamide. The compound was identified by LC-MS.

reactant | 2-{[1-(3,5-Dichloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid | 0.0668 mmol, 30.0 mg | ClC=1C(=C(CN2CCC(CC2)CNC2=NC3=C(N2)C=CC=C3C(=O)O)C=C(C1)Cl)O | C21H22Cl2N4O3
reactant | 1-hydroxybenzotriazole monohydrate | 0.200 mmol, 30.6 mg | O.ON1N=NC2=C1C=CC=C2
reactant | isopropylamine | 0.200 mmol, 11.8 mg | C(C)(C)N | C3H9N
reactant | diisopropylcarbodiimide | 0.200 mmol, 30.8 μl | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dimethylformamide | 0.50 ml | CN(C=O)C | C3H7NO
solvent | Methanol | 2 ml | CO | CH4O
product | 2-{[1-(3,5-dichloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid isopropylamide | C(C)(C)NC(=O)C1=CC=CC=2NC(=NC21)NCC2CCN(CC2)CC2=C(C(=CC(=C2)Cl)Cl)O | C24H29Cl2N5O2
